US07812016B2
5-(1,1-Dioxido-1,2-thiazinan-2-yl)-7-[5-(4-fluorobenzyl)-4H-1,2,4-triazol-3-yl]-1,6-naphthyridin-8-ol
The title compound was prepared in a similar manner to that described in example 3 from 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-1,6-naphthyridine-7-carbonitrile (12 mg, 0.04 mmol) and 2-(4-fluorophenyl)acetic hydrazide (33 mg, 0.20 mmol) to give a white solid (6 mg, 31%). 1H NMR (CDCl3/CD3OD): δ 9.13 (m, 1 H), 8.56 (d, J=8.4 Hz, 1 H), 7.63 (dd, J=8.4, 4.0 Hz, 1 H), 7.32 (dd, J=8.4, 5.6 Hz, 2 H), 6.99 (t, J=8.4 Hz, 2 H), 4.17 (s, 2 H), 3.90 (m, 1 H), 3.77 (m, 1 H), 3.52 (m, 1 H), 3.32 (m, 1 H), 2.44-1.89 (m, 4 H); 19F NMR (CDCl3/CD3OD): δ −116.86; MS m/z 455 (M+1).

reactant | 5-(1,1-dioxido-1,2-thiazinan-2-yl)-8-hydroxy-1,6-naphthyridine-7-carbonitrile | 0.04 mmol, 12 mg | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C#N)O)=O | C13H12N4O3S
reactant | 2-(4-fluorophenyl)acetic hydrazide | 0.20 mmol, 33 mg | FC1=CC=C(C=C1)CC(=O)NN | C8H9FN2O
product | 5-(1,1-Dioxido-1,2-thiazinan-2-yl)-7-[5-(4-fluorobenzyl)-4H-1,2,4-triazol-3-yl]-1,6-naphthyridin-8-ol | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C1=NN=C(N1)CC1=CC=C(C=C1)F)O)=O | C21H19FN6O3S
